US05877202
7-(t-Butoxycarbonyl)amino-heptanoic acid methyl phenyl-amide
Prepare by a method similar to Example 70 using 7-(t-butoxycarbonyl)amino-heptanoic acid and N-methylaniline.

reactant | 7-(t-butoxycarbonyl)amino-heptanoic acid | C(C)(C)(C)OC(=O)NCCCCCCC(=O)O | C12H23NO4
reactant | N-methylaniline | CNC1=CC=CC=C1 | C7H9N
product | 7-(t-Butoxycarbonyl)amino-heptanoic acid methyl phenyl-amide | CN(C(CCCCCCNC(=O)OC(C)(C)C)=O)C1=CC=CC=C1 | C19H30N2O3
